US05118827
A solution of hexamethyldisilazane lithium amide (205 mg, 1.11 mmol) in dry hexane/benzene (1:4) solution (5 ml) is stirred on an oil bath at 90° C. and thereto is dropwise added a solution of cyanohydrin ethoxyethyl ether which is 15-chloro-2-(1-ethoxyethoxy)-3-(1-methylethyl)-6, 10,14-trimethyl-3,5,9,13-pentadecatetraenenitrile (115 mg, 0.26 mmol) in dry benzene (6 ml) over 20 minutes. After stirring the mixture at this temperature for 5 minutes, a saturated aqueous ammonium chloride solution is added while stirring on an ice-water bath. The organic layer is extracted with ether (20 ml×2) and the solvent is removed by distillation under reduced pressure to give 1-(1-ethoxyethoxy)-2-(1-methylethyl)-5,9,13-trimethyl-2,4,8,12 -cyclotetradecatetraene-1-carbonitrile (51.6 mg, 50%) as a mixture of diastereomers. This product is subjected to silica gel column chromatography (n-hexane/ether =20:1) to give one isomer of the above formula.

reactant | 15-chloro-2-(1-ethoxyethoxy)-3-(1-methylethyl)-6, 10,14-trimethyl-3,5,9,13-pentadecatetraenenitrile | 0.26 mmol, 115 mg | ClCC(=CCCC(=CCCC(=CC=C(C(C#N)OC(C)OCC)C(C)C)C)C)C | C25H40ClNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane benzene | CCCCCC.C1=CC=CC=C1
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
product | 1-(1-ethoxyethoxy)-2-(1-methylethyl)-5,9,13-trimethyl-2,4,8,12 -cyclotetradecatetraene-1-carbonitrile | 51.6 mg, 50% | C(C)OC(C)OC1(C(=CC=C(CCC=C(CCC=C(C1)C)C)C)C(C)C)C#N | C25H39NO2
